US09120819B2
Stage A: 3-{[(Pyridin-2-ylmethyl)amino]carbonyl}-phenyl acetate
93 ml (0.66 mol) of triethylamine and 160 g (0.36 mol) of benzotriazol-1-yloxytris(dimethylamino)phosphonium hexafluorophosphate (BOP) are added, at ambient temperature under argon, to 65.0 g (0.36 mol) of 3-acetoxybenzoic acid in solution in 600 ml of dichloromethane. After 10 minutes, 32.5 g (0.30 mol) of 2-(aminomethyl)pyridine in solution in 200 ml of dichloromethane are added dropwise at 0° C. The reaction medium is allowed to return to ambient temperature and then stirred for 3 hours.

reactant | triethylamine | 0.66 mol, 93 ml | C(C)N(CC)CC | C6H15N
reactant | benzotriazol-1-yloxytris(dimethylamino)phosphonium hexafluorophosphate | 0.36 mol, 160 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | 3-acetoxybenzoic acid | 0.36 mol, 65.0 g | C(C)(=O)OC=1C=C(C(=O)O)C=CC1 | C9H8O4
reactant | 2-(aminomethyl)pyridine | 0.30 mol, 32.5 g | NCC1=NC=CC=C1 | C6H8N2
solvent | dichloromethane | 600 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
product | 3-{[(Pyridin-2-ylmethyl)amino]carbonyl}-phenyl acetate | C(C)(=O)OC1=CC(=CC=C1)C(=O)NCC1=NC=CC=C1 | C15H14N2O3
